US04480112
8.1 parts of sodium hydroxide were dissolved in 100 parts by volume of water and the solution cooled to 0°-5° C. 13.3 parts of L-aspartic acid were added and stirred until all dissolved, then 15.8 parts by volume of diketene were added dropwise over 90 minutes, stirred at 0°-10° C. for an additional 2.5 hours, and filtered. The homogeneous solution was evaporated to dryness under vacuum at 35°-40° C. Disodium N-acetoacetylaspartate was obtained as a white foam.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | water | O | H2O
product | Disodium N-acetoacetylaspartate | C(CC(=O)C)(=O)N[C@@H](CC(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C8H11NO6.2Na/c1-4(10)2-6(11)9-5(8(14)15)3-7(12)13;;/h5H,2-3H2,1H3,(H,9,11)(H,12,13)(H,14,15);;/q;2*+1/p-2/t5-;;/m0../s1
